US06525036B2
A solution of sodium hexamethyldisilazide (92.4 mL of a 0.6M toluene solution, Aldrich) in THF (70 mL) was cooled to −78° C. and then treated with a solution of (S)-3-cyclohexylpropionyl-4-isopropyloxazolidin-2-one (10.5 g, 39.3 mmol) in THF (30 mL) added dropwise over 10 minutes. The mixture was stirred for 1 hour and then treated with a solution of tert-butylbromoacetate (9.75 mL, 50 mmol) in THF (20 mL) added dropwise. The mixture was stirred for 1 hour, while warming to −10° C. The mixture reaction was diluted with 1M hydrochloric acid (100 mL) and the dilution was extracted with ethyl acetate (200 mL). The extract was washed with saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL), dried (MgSO4), filtered and concentrated to dryness. The residue was dissolved in hexane and product was crystallized out to provide tert-butyl 3-cyclohexylmethyl-4-(4-isopropyl-2-oxooxazolidin-3-yl)-4-oxobutyrate (9.09 g, 61%). MS (M+1): 382.

reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | toluene | 0.6M | C1(=CC=CC=C1)C | C7H8
reactant | (S)-3-cyclohexylpropionyl-4-isopropyloxazolidin-2-one | 39.3 mmol, 10.5 g | C1(CCCCC1)CCC(=O)N1C(OC[C@@H]1C(C)C)=O | C15H25NO3
reactant | tert-butylbromoacetate | 50 mmol, 9.75 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 1M, 100 mL | Cl | ClH
product | tert-butyl 3-cyclohexylmethyl-4-(4-isopropyl-2-oxooxazolidin-3-yl)-4-oxobutyrate | 9.09 g, 61% | C1(CCCCC1)CC(CC(=O)OC(C)(C)C)C(=O)N1C(OCC1C(C)C)=O | C21H35NO5
